US09303033B2
Hydantoin (2.7 mg, 0.027 mmol) and 3-chloro-4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (10 mg, 0.027 mmol) were dissolved in ethanol (0.4 mL) along with piperidine (3 uL, 0.03 mmol). The reaction was heated at 80° C. After 10 hours, the reaction was cooled to r.t., diluted with water, and the precipitate was collected and washed with water, 1:1 ethanol:water, then ethanol. The bright yellow solid was dried in vacuo to give 3-chloro-4-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (7 mg, 58% yield).

reactant | Hydantoin | 0.027 mmol, 2.7 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 3-chloro-4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 0.027 mmol, 10 mg | ClC=1C=C(C#N)C=CC1NC1=NC=2N(C(=C1C)NC1CC1)N=CC2C=O | C18H15ClN6O
reactant | piperidine | 0.03 mmol, 3 uL | N1CCCCC1 | C5H11N
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-chloro-4-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 7 mg, 58% yield | ClC=1C=C(C#N)C=CC1NC1=NC=2N(C(=C1C)NC1CC1)N=CC2C=C2NC(NC2=O)=O | C21H17ClN8O2
